US05866576
This example illustrates a synthesis of 1-(12,13-Oxidotridecyl)-3,7-dimethylxanthine (inventive compound no. 2562). To a suspension of magnesium (4.12 g, 172 mmol) and a crystal of iodine in tetrahydrofuran (40 mL) was added 10-undecenyl bromide (8.00 g, 34.3 mmol) in tetrahydrofuran (30 mL) over 30 minutes and the reaction stirred for a further 30 minutes after the addition was complete. The solution was added via a canula over 5 minutes to a solution of ethylene oxide (2.65 g, 60.0 mmol) in tetrahydrofuran (30 mL) and stirred at 25° C. for 16 hours. Saturated ammonium chloride (100 mL) and 1M hydrogen chloride (200 mL) were added and extracted with diethyl ether (2×200 mL). The combined organic extracts were dried (magnesium sulfate) and evaporated to give a residue which was distilled at 1.5 mm Hg to afford 12-tridecenyl alcohol as a clear liquid (4.11 g, 61%, b.p. 98°-101° C.).

reactant | magnesium | 172 mmol, 4.12 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 10-undecenyl bromide | 34.3 mmol, 8.00 g | C(CCCCCCCCC=C)Br | C11H21Br
reactant | ethylene oxide | 60.0 mmol, 2.65 g | C1CO1 | C2H4O
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
reactant | hydrogen chloride | 1M, 200 mL | Cl | ClH
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 12-tridecenyl alcohol | 4.11 g, 61% | C(CCCCCCCCCCC=C)O | C13H26O
